US05409956
Preparation of [2-[(4-chlorophenyl)sulfonylaminomethyl]-indan-5-yl]carboxylic acid:
Under ice-salt cooling, 4.90 g (122 mmol) of sodium hydroxide was dissolved in 50 ml of water, to which 1.6 ml (31.0 mmol) of bromine was added dropwise. This mixture was added to a solution of 100 ml of 90% dioxane containing 2.85 g (7.50 mmol) of 5-acetyl-2-[(4-chlorophenyl)sulfonylaminomethyl]indan under cooling in an ice-salt bath. Thereafter, stirring was conducted for 1 hour during which the temperature of the mixture was elevated to room temperature. The reaction solution was added with 10% sodium thiosulfate, and made acidic with 1N HCl, followed by extracting with ethyl acetate. The solvent was removed, and the residue was recrystallized from acetic acid to obtain 2.36 g of colorless crystals. Yield: 86%

reactant | sodium hydroxide | 122 mmol, 4.90 g | [OH-].[Na+]
reactant | bromine | 31.0 mmol, 1.6 ml | BrBr | Br2
reactant | dioxane | 7.50 mmol, 100 ml, 2.85 g | O1CCOCC1 | C4H8O2
reactant | 5-acetyl-2-[(4-chlorophenyl)sulfonylaminomethyl]indan | C(C)(=O)C=1C=C2CC(CC2=CC1)CNS(=O)(=O)C1=CC=C(C=C1)Cl | C18H18ClNO3S
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | water | 50 ml | O | H2O
product | [2-[(4-chlorophenyl)sulfonylaminomethyl]-indan-5-yl]carboxylic acid | 2.36 g, Yield: 86% | ClC1=CC=C(C=C1)S(=O)(=O)NCC1CC2=CC=C(C=C2C1)C(=O)O | C17H16ClNO4S
